US09062076B2
To a stirred solution of methyl 2-(5,6-dimethoxy-1H-indene-2-carboxamido)benzoate (120 mg, 0.34 mmol) in THF (6 mL) and MeOH (3 mL) was added 2 N NaOH solution (0.85 mL) dropwise. The resulting mixture was stirred at room temperature for 2 h, then quenched with 1N HCl solution and extracted with DCM. The organic extracts were washed with a saturated aqueous NaCl solution and dried over sodium sulfate. The solvent was then removed under reduced pressure to give 2-(5,6-dimethoxy-1H-indene-2-carboxamido)benzoic acid (100 mg, 87%). 1H-NMR (400 MHz, DMSO-d6) δ 3.72 (br s, 2H), 3.79 (s, 3H), 3.81 (s, 3H), 7.15 (m, 1H), 7.24 (s, 1H), 7.26 (s, 1H), 7.55-7.66 (m, 2H), 8.04 (dd, J=8.0, 1.6 Hz, 1H), 8.70 (dd, J=8.4, 1.2 Hz, 1H), 11.91 (s, 1H); LC-MS (ES-API); rt 9.23 min; m/z calculated for C19H17NO5 [M−H]− 338.1, found 338.1.

reactant | methyl 2-(5,6-dimethoxy-1H-indene-2-carboxamido)benzoate | 0.34 mmol, 120 mg | COC=1C=C2C=C(CC2=CC1OC)C(=O)NC1=C(C(=O)OC)C=CC=C1 | C20H19NO5
reactant | NaOH | 2 N, 0.85 mL | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | 2-(5,6-dimethoxy-1H-indene-2-carboxamido)benzoic acid | 100 mg, 87% | COC=1C=C2C=C(CC2=CC1OC)C(=O)NC1=C(C(=O)O)C=CC=C1 | C19H17NO5
